US07842710B2
156.0 mg (3.9 mmol) of 60% sodium hydride in oil are added to a solution of 897.8 mg (3.0 mmol) N-[2-(hydroxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide (IV-1) in 2 ml dimethyl formamide at room temperature. After 30 minutes, 0.6 ml (6.0 mmol) 2-iodopropane are added. The reaction mixture is stirred for 6 hours at 100° C. and thereafter for 16 hours at room temperature. Afterward, the mixture is diluted with 1 ml methanol, added to water and extracted with ethyl acetate; the organic phase is dried over magnesium sulfate, the drying agent filtered off and the material concentrated under vacuum. Column chromatography (3:1 cyclohexane/ethyl acetate) yielded 100.0 mg (9.7% of the theoretical yield) of N-[2-(isopropoxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-carboxamide [logP (pH 2.3)=2.85].

reactant | sodium hydride | 3.9 mmol, 156.0 mg | [H-].[Na+]
reactant | N-[2-(hydroxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 3.0 mmol, 897.8 mg | OCC1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C13H12F3N3O2
reactant | 2-iodopropane | 6.0 mmol, 0.6 ml | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | N-[2-(isopropoxymethyl)phenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-carboxamide | pH 2.3 | C(C)(C)OCC1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F | C16H18F3N3O2
